US06114390
b) (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N2 -[(7-methyl-2-propyl-1H-benzimidazol-5-yl)carbonyl]-argininamide-diacetate
Prepared analogously to Example 4c) from (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(7-methyl-2-propyl-1H-benzimidazol-5-yl)carbonyl]-ornithinamide by catalytic hydrogenation in the presence of palladium black and 80% aqueous acetic acid in a yield of 54% of theory.

reactant | (R)-N-[[4-(aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(7-methyl-2-propyl-1H-benzimidazol-5-yl)carbonyl]-ornithinamide | NC(=O)NCC1=CC=C(C=C1)CNC([C@H](NC(=O)C1=CC2=C(NC(=N2)CCC)C(=C1)C)CCCNC(=N[N+](=O)[O-])N)=O | C27H36N10O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium black | [Pd] | Pd
product | (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N2 -[(7-methyl-2-propyl-1H-benzimidazol-5-yl)carbonyl]-argininamide diacetate | yield of 54% | NC(=O)NCC1=CC=C(C=C1)CNC([C@H](NC(=O)C1=CC2=C(NC(=N2)CCC)C(=C1)C)CCCNC(N)=N)=O.CC(=O)CC(=O)O | InChI=1S/C27H37N9O3.C4H6O3/c1-3-5-22-34-21-13-19(12-16(2)23(21)36-22)24(37)35-20(6-4-11-31-26(28)29)25(38)32-14-17-7-9-18(10-8-17)15-33-27(30)39;1-3(5)2-4(6)7/h7-10,12-13,20H,3-6,11,14-15H2,1-2H3,(H,32,38)(H,34,36)(H,35,37)(H4,28,29,31)(H3,30,33,39);2H2,1H3,(H,6,7)/t20-;/m1./s1
